US06335445B1
Thiazolidine-2-carboxylic acid (2 g, 15 mmoles) is agitated in the presence of di-t-butyl dicarbonate according to the operating method described for intermediate 37.1. 3-(t-butoxycarbonyl)thiazolidine-2-carboxylic acid is obtained in the form of a pale yellow oil with a yield of 97% (3.4 g) and will be used as is in the following stages.

reactant | Thiazolidine-2-carboxylic acid | 15 mmoles, 2 g | S1C(NCC1)C(=O)O | C4H7NO2S
reactant | di-t-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | 3-(t-butoxycarbonyl)thiazolidine-2-carboxylic acid | yield of 97% | C(C)(C)(C)OC(=O)N1C(SCC1)C(=O)O | C9H15NO4S
